US08293744B2
Step 6: Preparation of ethyl 4-thioxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrothieno[3,2-c]pyridazine-3-carboxylate:
Ethyl 4-oxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrothieno[3,2-c]pyridazine-3-carboxylate (37 mg, 0.097 mmol) suspended in dioxane (5 mL) and toluene (5 mL), placed into an oil bath preheated at 110° C. and treated with Lawesson's Reagent (39 mg, 0.097 mmol, 1 equiv) portionwise over 10 minutes. The mixture was heated for an additional 30 minutes, cooled to ambient temperature and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 25:75; hexanes:ethyl acetate), providing the titled compound as a brown oil.

reactant | Ethyl 4-oxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrothieno[3,2-c]pyridazine-3-carboxylate | 0.097 mmol, 37 mg | O=C1C2=C(N(N=C1C(=O)OCC)CC1=CC=C(C=C1)N1N=CC=C1)C=CS2 | C19H16N4O3S
reactant | Lawesson's Reagent | 0.097 mmol, 39 mg, 1 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-thioxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrothieno[3,2-c]pyridazine-3-carboxylate | S=C1C2=C(N(N=C1C(=O)OCC)CC1=CC=C(C=C1)N1N=CC=C1)C=CS2 | C19H16N4O2S2
